US03932644
A solution of 5-methyl-2-thiohydantoin (15 g.) and methyl iodide (16.3 g.) in dry ethanol (130 ml.) was heated under reflux for 11/2 hours, and then allowed to stand at 0° overnight. The crystalline product was filtered and washed with ether to give 2-methylthio-5-methyl-2-imidazolin-4-one hydroiodide (17.8 g.), m.p. 170°-173°.

reactant | 5-methyl-2-thiohydantoin | 15 g | CC1C(NC(N1)=S)=O | C4H6N2OS
reactant | methyl iodide | 16.3 g | CI | CH3I
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | 2-methylthio-5-methyl-2-imidazolin-4-one hydroiodide | 17.8 g | I.CSC=1NC(C(N1)=O)C | InChI=1S/C5H8N2OS.HI/c1-3-4(8)7-5(6-3)9-2;/h3H,1-2H3,(H,6,7,8);1H
